US07550605B2
To (S)-(+)-N-methyl-3-(1-naphthaleneoxy)-3-(2-thienyl)propanamine free base (65 gm) prepared as above, methanol (520 ml) is added under stirring. To the clear solution at 20-25° C., ammonium chloride (12.3 gm) is added under stirring. The reaction mixture is stirred at 20-25° C. for 1.5 hours. The solution is heated to 40-45° C. and methanol is distilled out under vacuum, residue is degassed. To the residue, dichloromethane (650 ml) is added under stirring, at 25-30° C. and the clear solution is stirred for 30 minutes. Then dichloromethane layer is washed with D.M Water (2×130 ml). Organic layer (dichloromethane layer) is charcoalised at 25-30° C., filtered through Hyflo bed and dried over sodium sulfate. Dichloromethane is distilled out under vacuum at 40-45° C. and residual mass is degassed under vacuum. Acetone (195 ml) is added to the residual mass at 25-30° C. to get a slurry and the resultant slurry is gradually cooled to 5-10° C. and maintained for 1-2 hours. The product is filtered and washed with acetone (100 ml), dried in air oven at 65-70° C. for 2-3 hours to obtain pure duloxetine HCl (35 g, 100% ee).

reactant | (S)-(+)-N-methyl-3-(1-naphthaleneoxy)-3-(2-thienyl)propanamine | 65 gm | CNCC[C@@H](C=1SC=CC1)OC1=CC=CC2=CC=CC=C12 | C18H19NOS
reactant | ammonium chloride | 12.3 gm | [Cl-].[NH4+]
solvent | methanol | 520 ml | CO | CH4O
product | duloxetine HCl | 35 g | CNCC[C@@H](C1=CC=CS1)OC=2C=CC=C3C2C=CC=C3.Cl | InChI=1S/C18H19NOS.ClH/c1-19-12-11-17(18-10-5-13-21-18)20-16-9-4-7-14-6-2-3-8-15(14)16;/h2-10,13,17,19H,11-12H2,1H3;1H/t17-;/m0./s1
